US06306860B1
6-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]-N-(5-methyl-1H-pyrazol-3-yl)nicotinamide
Triethylamine (0.8 ml) was added to 6-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]nicotinic acid (2 g) in methylene chloride (30 ml) for dissolution and cooled. With the slow addition of pivaloyl chloride (0.7 ml) at 0° C.˜5° C., the mixture was stirred at 5° C. for 1 hour. With the addition of triethylamine (0.9 ml) and 3-amino-5-methylpyrazole (0.56 g), the mixture was stirred at 5° C.˜10° C. for 3 hours. The solution was slowly heated and stirred at 15° C.˜20° C. for 30 minutes. The solution was washed with an aqueous sodium bicarbonate and water twice. The separated organic layer was concentrated under reduced pressure. The concentrated residue was chromatographed on column (chloroform/isopropanol=10/1, v/v). The purified solution was recovered and concentrated under reduced pressure. The residue was treated with ether for crystallization and with the addition of isopropyl ether (20 ml), and stirred for 2 hours, filtered and washed to give a desired compound of 1.77 g (yield: 73%).

reactant | Triethylamine | 0.8 ml | C(C)N(CC)CC | C6H15N
reactant | 6-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]nicotinic acid | 2 g | C(C)(C)NC=1C(=NC=CC1)N1CCN(CC1)C(=O)C1=NC=C(C(=O)O)C=C1 | C19H23N5O3
reactant | pivaloyl chloride | 0.7 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | triethylamine | 0.9 ml | C(C)N(CC)CC | C6H15N
reactant | 3-amino-5-methylpyrazole | 0.56 g | NC1=NNC(=C1)C | C4H7N3
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 6-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]-N-(5-methyl-1H-pyrazol-3-yl)nicotinamide | yield: 73% | C(C)(C)NC=1C(=NC=CC1)N1CCN(CC1)C(=O)C1=NC=C(C(=O)NC2=NNC(=C2)C)C=C1 | C23H28N8O2
